* G:\SwCADIII\lib\sym\EXTRA\IRF\GATEDRV\IR21064.asc
.SUBCKT IR21064A
D1 Hin Vcc Dd
D2 Vss Hin Dd
D3 Hout Hcc Dd
D4 Hss Hout Dd
D5 Hss Hcc 25V
C3 Hcc Hout 22p
C4 Hout Hss 22p Rpar=100k
S1 Hout Hcc Hdrv Hok SH
S2 Hout Hss 2 Hok SL
A1 Hin Vss 0 0 0 1 Hdrv 0 SCHMITT Trise=20n Tfall=20n Td=125n Vt=1.9 Vh=1 Tripdt=50n
C2 Hok 2 10p
R1 2 1 1.5k
A2 Hcc Hss 0 0 0 Hok 0 0 SCHMITT Trise=20n Tfall=20n Td=20n Vt=8.9 Vh=.35 Tripdt=50n
C1 Hin Vss 10p Rpar=1e6
D7 Com Hcc 625V
D6 Vss Vcc 25V
D8 Lin Vcc Dd
D9 Vss Lin Dd
A3 Lin Vss 0 0 0 3 Ldrv 0 SCHMITT Trise=20n Tfall=20n Td=125n Vt=1.9 Vh=1 Tripdt=50n
R2 4 3 1.5k
A4 Vcc Com 0 0 0 Lok 0 0 SCHMITT Trise=20n Tfall=20n Td=20n Vt=8.9 Vh=.35 Tripdt=50n
C5 Lin Vss 10p Rpar=1e6
S3 Lout Vcc Ldrv Lok SH
S4 Lout Com 4 Lok SL
C6 Lok 4 10p
D10 Lout Vcc Dd
D11 Com Lout Dd
D12 Com Vcc 25V
C7 Vcc Lout 22p
C8 Lout Com 22p Rpar=100k
*.model D D
*.lib G:\SwCADIII\lib\cmp\standard.dio
* >> IR21064 <<\nBehavioral Model\nby analog@ieee.org
.model Dd D(Ron=.5 Vfwd=.5)
.model 25V D(Ron=.5 Vfwd=.5 Vrev=25.2 Roff=25e4)
.model 625V D(Ron=.5 Vfwd=.5 Vrev=625 Roff=12e6)
.model SH SW(Vt=.7 Vh=-.3 Ron=40 Ilimit=.1)
.model SL SW(Vt=.7 Vh=-.3 Ron=15 Ilimit=.3)
.backanno
.ends
